US08008303B2
5′-Amino-2′-trifluoromethoxy-biphenyl-4-carboxylic acid [4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenyl]-amide
{4′-[4-(1,1-Dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenylcarbamoyl]-6-trifluoromethoxy-biphenyl-3-yl}-carbamic acid tert-butyl ester (140 mg) was stirred in 1:1 trifluoroacetic acid:dichloromethane (6 ml) at 20 C for 1 h. The mixture was then basified and extracted with ethyl acetate. The dried extracts were then evaporated giving a dark gum (105 mg).

reactant | {4′-[4-(1,1-Dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenylcarbamoyl]-6-trifluoromethoxy-biphenyl-3-yl}-carbamic acid tert-butyl ester | 140 mg | C(C)(C)(C)OC(NC=1C=C(C(=CC1)OC(F)(F)F)C1=CC=C(C=C1)C(NC1=CC=C(C=C1)CN1CCS(CC1)(=O)=O)=O)=O | C30H32F3N3O6S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 5′-Amino-2′-trifluoromethoxy-biphenyl-4-carboxylic acid [4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenyl]-amide | 105 mg | O=S1(CCN(CC1)CC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)N)OC(F)(F)F)=O | C25H24F3N3O4S
